US07772246B2
To a solution of 5-bromo-3-methyl-1H-pyrrolo[2,3-b]pyridine (B-5-4) (0.5 g, 2.37 mmol) in DMF (150 mL) were added KOAc (0.7 g, 7.11 mmol) and bis(pinacolato)diboron (0.72 g, 2.84 mmol). The resulting mixture was degassed under N2 for 2 minutes. Then Pd(PPh3)2Cl2 (0.2 g, 0.237 mmol) was added and the mixture was degassed again. The reaction was heated to 80-90° C. and stirred overnight. The mixture was poured into water (30 mL), extracted with EtOAc (15 mL×3). The organic layer was washed with saturated aqueous NaCl, dried over Na2SO4 and concentrated to give crude 3-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridine (B-5-5) (0.7 g), which was used directly in next step.

reactant | 5-bromo-3-methyl-1H-pyrrolo[2,3-b]pyridine | 2.37 mmol, 0.5 g | BrC=1C=C2C(=NC1)NC=C2C | C8H7BrN2
reactant | KOAc | 7.11 mmol, 0.7 g | CC(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 2.84 mmol, 0.72 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)2Cl2 | 0.237 mmol, 0.2 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridine | CC1=CNC2=NC=C(C=C21)B2OC(C(O2)(C)C)(C)C | C14H19BN2O2
